US07220744B2
f) 4-(4-Methyl-5-trifluoromethyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
A mixture of 4.92 mmol rac-2-benzenesulfonyl-2-methyl-3-trifluoromethyl-oxirane and 5.41 mmol 4-thiocarbamoyl-piperazine-1-carboxylic acid tert-butyl ester (prepared from tert-butyl 1-piperazinecarboxylate, 1,1′-thiocarbonyldiimidazole and ammonia according to the procedure of J. Med. Chem. 1998, 41, 5037–5054) in 15 ml N,N-dimethylformamide was heated at 100° C. for 4.5 h. The reaction mixture was then concentrated in vacuo and the residue purified by chromatography (SiO2, ethyl acetate/heptane) to afford the title compound as a yellow crystalline solid (yield 30%). MS (m/e): 352.3 (M+H+, 100%).

reactant | rac-2-benzenesulfonyl-2-methyl-3-trifluoromethyl-oxirane | 4.92 mmol | C1(=CC=CC=C1)S(=O)(=O)C1(OC1C(F)(F)F)C | C10H9F3O3S
reactant | 4-thiocarbamoyl-piperazine-1-carboxylic acid tert-butyl ester | 5.41 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C(N)=S | C10H19N3O2S
reactant | tert-butyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 1,1′-thiocarbonyldiimidazole | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | ammonia | N | H3N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-(4-Methyl-5-trifluoromethyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | yield 30% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=C(N1)C)C(F)(F)F | C14H20F3N3O2S
